US08012976B2
8-(4-((Dimethylamino)methyl)phenyl)-9-(4-methoxyphenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(4-methoxyphenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (70 mg, 0.15 mmol) and hydrazine monohydrate (1 mL) in methanol (5 mL) was stirred at room temperature for 5 hr. The resulting mixture was evaporated under reduced pressure to a volume of 1 mL and then filtered. The filtrate was concentrated to give the title compound as a white solid (26.5 mg). LC-MS (ESI) m/z: 427(M+1)+. 1H-NMR (400 MHz, CD3OD) δ (ppm): 2.79 (s, 6H), 3.71 (s, 3H), 4.24 (s, 2H), 4.26 (d, 1H), 4.77 (d, 1H), 6.74 (d, 2H), 6.99 (d, 2H), 7.18-7.21 (m, 1H), 7.35-7.43 (m, 4H), 7.55-7.57 (m, 1H), 7.65 (t, 3H).

reactant | ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(4-methoxyphenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.15 mmol, 70 mg | CN(C)CC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)OC)=O)C(=O)OCC | C28H30N2O4
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 8-(4-((Dimethylamino)methyl)phenyl)-9-(4-methoxyphenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 26.5 mg | CN(C)CC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=C(C=C1)OC | C26H26N4O2
